US04329347
7-(4-Phenylmercapto-butoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 4 from 7-hydroxy-3,4-dihydro-carbostyril (see N. Shigematsu et al., Chem. Pharm. Bull. 1961, 970-975) and 4-phenylmercapto-butyl bromide (bp. 96° to 103° C. at 0.02 mm Hg).

reactant | 7-hydroxy-3,4-dihydro-carbostyril | OC1=CC=C2CCC(NC2=C1)=O | C9H9NO2
reactant | 4-phenylmercapto-butyl bromide | C1(=CC=CC=C1)SCCCCBr | C10H13BrS
product | 7-(4-Phenylmercapto-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)SCCCCOC1=CC=C2CCC(NC2=C1)=O | C19H21NO2S
